US08114868B2
(S)-3-((S)-1-(4-(1-ethyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propyl)-1,3-oxazinan -2-one and 1-ethyl-4-iodopyridin-2(1H)-one following a procedure analogous to that described in Example 6 Step 1. LC-MS Method 2 tR=1.228 min, m/z=971.4; 1H NMR (CDCl3) 1.10 (s, 3H), 1.14 (s, 3H), 1.36 (m, 3H), 1.53 (d, 3H), 2.17 (s, 2H), 2.21-2.32 (m, 2H), 2.32-2.48 (m, 1H), 2.88 (m, 1H), 4.00 (m, 2H), 5.68 (m, 1H), 6.39 (d, 1H), 6.78 (s, 1H), 6.99 (d, 2H), 7.27-7.38 (m, 8H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propyl)-1,3-oxazinan -2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C29H40BNO5
reactant | 1-ethyl-4-iodopyridin-2(1H)-one | C(C)N1C(C=C(C=C1)I)=O | C7H8INO
product | (S)-3-((S)-1-(4-(1-ethyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | C(C)N1C(C=C(C=C1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)=O | C29H34N2O4
